US04971959
2-(3-Cyclopentoxy-4-methoxyphenyl)-1-nitro-E-ethylene
To a stirred solution of 1.02 g (4.63 mmol) of 3-cyclopentoxy-4-methoxybenzaldehyde in 20 mL of methanol was added 0.3 mL (5.5 mmol) of nitromethane followed by 0.2 g (5.0 mmol) of sodium hydroxide in 5 mL of water in single portions. The mixture was stirred for 4 hours after which time the decomposing mixture was concentrated, diluted with 20 mL of water and acidified to pH 1 with concentrated hydrochloric acid. The aqueous solution was extracted with three, 10 mL portions of chloroform and the combined organic fractions were dried over magnesium sulfate and concentrated. Liquid chromatography of the crude mixture over 100 g of silica gel eluting with 5% ethyl acetate in hexane provided an analytically pure solid.

reactant | 3-cyclopentoxy-4-methoxybenzaldehyde | 4.63 mmol, 1.02 g | C1(CCCC1)OC=1C=C(C=O)C=CC1OC | C13H16O3
reactant | nitromethane | 5.5 mmol, 0.3 mL | [N+](=O)([O-])C | CH3NO2
reactant | sodium hydroxide | 5.0 mmol, 0.2 g | [OH-].[Na+]
solvent | methanol | 20 mL | CO | CH4O
solvent | water | 5 mL | O | H2O
product | 2-(3-Cyclopentoxy-4-methoxyphenyl)-1-nitro-E-ethylene | C1(CCCC1)OC=1C=C(C=CC1OC)/C=C/[N+](=O)[O-] | C14H17NO4
